US06225318B1
(1H-indol-5-yl)-(7-methoxy-6-pyridin-2-ylethynyl-quinazolin-4-yl)-amine
The title compound was synthesized according to the method of Example 2 using (1H-indol-5-yl)-(6-iodo-7-methoxy-quinazolin-4-yl)-amine (135 mg, 0.486 mmol), 2-ethynyl-pyridine (185 mg, 1.45 mmol) and diethylamine (605 mg, 8.27 mmol) in 2 mL., of DMF.

reactant | (1H-indol-5-yl)-(6-iodo-7-methoxy-quinazolin-4-yl)-amine | 0.486 mmol, 135 mg | N1C=CC2=CC(=CC=C12)NC1=NC=NC2=CC(=C(C=C12)I)OC | C17H13IN4O
reactant | 2-ethynyl-pyridine | 1.45 mmol, 185 mg | C(#C)C1=NC=CC=C1 | C7H5N
reactant | diethylamine | 8.27 mmol, 605 mg | C(C)NCC | C4H11N
solvent | DMF | CN(C)C=O | C3H7NO
product | (1H-indol-5-yl)-(7-methoxy-6-pyridin-2-ylethynyl-quinazolin-4-yl)-amine | N1C=CC2=CC(=CC=C12)NC1=NC=NC2=CC(=C(C=C12)C#CC1=NC=CC=C1)OC | C24H17N5O
